US06777409B2
4-(2-Bromo-5-fluorophenyl)-2-hydroxy-4-methylvaleric acid-methyl ester
A solution of 0.9 g (2.13 mmol) of 2-benzoyl-4-(2-bromo-5-fluorophenyl)-4-methylvaleric acid-methyl ester in 50 ml of MeOH is mixed with 1.47 g (10.6 mmol) of potassium carbonate and stirred for 3 hours at room temperature. The batch is acidified (pH 3) with 10% sulfuric acid, and it is extracted with ethyl acetate. The combined extracts are washed with saturated NaCl, dried (Na2SO4) and concentrated by evaporation in a vacuum. The residue is taken up in 8 ml of DMF and stirred with 1.92 g (5.9 mmol) of cesium carbonate and 0.38 ml (5.9 mmol) of methyl iodide for 3 hours at room temperature. The batch is mixed with 10% citric acid and extracted with MTBE. The organic phase is washed with saturated NaCl, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography on silica gel with hexane-ethyl acetate yields 250 mg of product.

reactant | 2-benzoyl-4-(2-bromo-5-fluorophenyl)-4-methylvaleric acid-methyl ester | 2.13 mmol, 0.9 g | COC(C(CC(C)(C)C1=C(C=CC(=C1)F)Br)C(C1=CC=CC=C1)=O)=O | C20H20BrFO3
reactant | potassium carbonate | 10.6 mmol, 1.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | cesium carbonate | 5.9 mmol, 1.92 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 5.9 mmol, 0.38 ml | CI | CH3I
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | MeOH | 50 ml | CO | CH4O
product | 4-(2-Bromo-5-fluorophenyl)-2-hydroxy-4-methylvaleric acid-methyl ester | 250 mg | COC(C(CC(C)(C)C1=C(C=CC(=C1)F)Br)O)=O | C13H16BrFO3
